US06762320B2
d) N-{4-[1-(3-Fluoro-phenyl)-ethoxy]-phenyl}-malonamide
Prepared in analogy to example 3 from N-{4-[1-(3-fluoro-phenyl)-ethoxy]-phenyl}-malonamic acid methyl ester and ammonium hydroxide. Yield=55%. Colorless solid. MS: m/e=317.3 (M++H).

reactant | N-{4-[1-(3-fluoro-phenyl)-ethoxy]-phenyl}-malonamic acid methyl ester | COC(CC(=O)NC1=CC=C(C=C1)OC(C)C1=CC(=CC=C1)F)=O | C18H18FNO4
reactant | ammonium hydroxide | [OH-].[NH4+]
product | N-{4-[1-(3-Fluoro-phenyl)-ethoxy]-phenyl}-malonamide | Yield=55% | FC=1C=C(C=CC1)C(C)OC1=CC=C(C=C1)NC(CC(=O)N)=O | C17H17FN2O3
